US07547691B2
(B). Preparation of 2-(2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methyl ester
Lithium diisopropylamide (5.70 mL, 2 M in THF) is added dropwise to a stirred solution of benzo[b]thiophene-4-carboxylic acid methyl ester (2.00 g, 10.4 mmol) and triisopropyl borate (2.63 mL, 11.4 mmol) in anhydrous THF (20 mL) at −78° C. under nitrogen. Upon the completion of the addition, the mixture is allowed to warm slowly over 1 hour to ambient temperature where it is stirred for another 1 hour. Aqueous Na2CO3 solution (2 M, 15.6 mL) is added to the mixture, followed by the addition of 1,1′-bis(diphenylphosphino)ferrocene (318 mg, 0.570 mmol), palladium(II) acetate (129 mg, 0.570 mmol) and 2,4-dichloropyrimidine (1.46 g, 10.4 mmol). The reaction mixture is heated to reflux for 16 hours. At ambient temperature THF is evaporated off, the aqueous layer is extracted with CHCl3 (100 mL×2) and the combined layers are concentrated to give a dark solid. The solid is dissolved in dichloromethane and purified by chromatography on silica gel, eluting with dichloromethane in hexanes 50-100%, to give the title compound as a yellowish solid (1.60 g, 51% yield).

reactant | Lithium diisopropylamide | 2 M, 5.70 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzo[b]thiophene-4-carboxylic acid methyl ester | 10.4 mmol, 2.00 g | COC(=O)C1=CC=CC=2SC=CC21 | C10H8O2S
reactant | triisopropyl borate | 11.4 mmol, 2.63 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Na2CO3 | 2 M, 15.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4-dichloropyrimidine | 10.4 mmol, 1.46 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.570 mmol, 318 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 0.570 mmol, 129 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methyl ester | 1.60 g, 51% yield | COC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2)Cl | C14H9ClN2O2S
